US05332734
84 mg of 2-[[[N-(9-fluorenylcarbonyl)glycyl]-L-valyl]amino]-6-methylbenzoic acid was prepared exactly as in step c) of Example 3, except that 126 mg of 6-methyl-2-(L-valylamino)benzoic acid was subjected to a condensation reaction with 188 mg of N-(9-fluorenylcarbonyl)glycine in place of 9-fluorenyloxyacetic acid used in Example 3.

reactant | 6-methyl-2-(L-valylamino)benzoic acid | 126 mg | CC1=CC=CC(=C1C(=O)O)NC([C@@H](N)C(C)C)=O | C13H18N2O3
reactant | N-(9-fluorenylcarbonyl)glycine | 188 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)NCC(=O)O | C16H13NO3
product | 2-[[[N-(9-fluorenylcarbonyl)glycyl]-L-valyl]amino]-6-methylbenzoic acid | 84 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)NCC(=O)N[C@@H](C(C)C)C(=O)NC1=C(C(=O)O)C(=CC=C1)C | C29H29N3O5
